US05807859
0.4 g of 10-amino-10-methyl-8-(3-methyl-ureido)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride dissolved in 25 ml of methanol containing triethylamine is chromatographed on a 23 cm column 6 cm in diameter packed with 400 g of silica coated with cellulose tris(3,5-dimethylphenylcarbamate) (Chiralcel OD type). The elution is carried out using a heptane/ethanol mixture (20/80 by volume) containing 0.05% triethylamine. The flow rate is 35 ml per minute and UV detection is performed at 254 nm. This operation is repeated 15 times in order to produce the two enantiomers of 10-amino-10-methyl-8-(3-methylureido)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one after concentration to dryness under reduced pressure of the fractions obtained: 1.79 g of laevorotatory enantiomer ([α]20D =-90.3°±1.2°) are thus isolated first, in the form of a white powder decomposing without melting at about 200° C. (Analysis, C16H16N6O2.0.21 H2 O.1.0 EtOH % calculated C: 59.25; H: 4.97; N: 25.91, % found C: 59.5; H: 4.9; N: 25.7); 1.47 g of the dextrorotatory enantiomer ([α]20D =89.00°±10°) are then isolated in the form of a pale yellow powder decomposing without melting at about 200° C. (Analysis, C16H16N6O2.0.21 H2 O.1.0 EtOH % calculated C: 59.25; H: 4.97; N: 25.91; % found C: 59.6; H: 5.0; N: 26.1). The purity of the two enantiomers is checked by chromatography under the same conditions (column: 25 cm/4.6 mm; Chiralcel OD type phase; eluent: EtOH/heptane: 80/20; flow rate: 1 ml/min; UV detection at 254 nm): the purity is greater than 98% for the first enantiomer and greater than 90% for the second.

reactant | 10-amino-10-methyl-8-(3-methyl-ureido)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride | 0.4 g | Cl.NC1(C=2C=C(C=CC2C=2NC(C=3N(C21)C=CN3)=O)NC(=O)NC)C
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methanol | 25 ml | CO | CH4O
product | 10-amino-10-methyl-8-(3-methylureido)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | NC1(C=2C=C(C=CC2C=2NC(C=3N(C21)C=CN3)=O)NC(=O)NC)C | C16H16N6O2
